US08357711B2
3-Chloro-4-{[(2,4-dimethoxybenzyl)(1,3-thiazol-2-yl)amino]sulfonyl}benzoic acid
To an ice cooled solution of N-(2,4-dimethoxybenzyl)-1,3-thiazol-2-amine (Preparation 6, 8.4 g, 33.4 mmol, 1 eq) in THF (80 ml) was added 60% sodium hydride (2.0 g, 50.2 mmol, 1.5 eq) portionwise. The mixture was stirred for 15 minutes before the addition of methyl 3-chloro-4-(chlorosulfonyl)benzoate (Preparation 5, 9 g, 33.4 mmol, 1 eq) then stirred for a further 30 minutes. The reaction mixture was added to water (20 ml) and the THF evaporated in vacuo. The residue was diluted with water (200 ml), extracted with ethyl acetate (2×200 ml) and DCM (100 ml). The combined organics were dried over sodium sulphate, filtered and evaporated in vacuo to yield the title compound.

reactant | N-(2,4-dimethoxybenzyl)-1,3-thiazol-2-amine | 33.4 mmol, 8.4 g, 1 eq | COC1=C(CNC=2SC=CN2)C=CC(=C1)OC | C12H14N2O2S
reactant | sodium hydride | 50.2 mmol, 2.0 g, 1.5 eq | [H-].[Na+]
reactant | methyl 3-chloro-4-(chlorosulfonyl)benzoate | 33.4 mmol, 9 g, 1 eq | ClC=1C=C(C(=O)OC)C=CC1S(=O)(=O)Cl | C8H6Cl2O4S
reactant | water | 20 ml | O | H2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 3-Chloro-4-{[(2,4-dimethoxybenzyl)(1,3-thiazol-2-yl)amino]sulfonyl}benzoic acid | ClC=1C=C(C(=O)O)C=CC1S(=O)(=O)N(C=1SC=CN1)CC1=C(C=C(C=C1)OC)OC | C19H17ClN2O6S2
